US05102905
The starting material was obtained using a similar procedure to that described for that in Example 9, but starting with 2-(2-methylthien-5-ylthio)acetic acid (described in Zh. Obsch. Khim. 1959, 29, 3631; 8.87 g), adding the butyllithium in hexane at -30° C. and the isoamyl nitrate at 0° C. The product 2-methyl-5-(nitromethylthio)thiophene, was obtained as an oil in 9% yield after column chromatography eluting with 10% ethyl acetate/hexane; NMR: 2.48 (s,3H), 5.38 (s,2H), 6.7 (m,1H), 7.1 (d,1H).

reactant | 2-(2-methylthien-5-ylthio)acetic acid | 8.87 g | CC=1SC(=CC1)SCC(=O)O | C7H8O2S2
reactant | butyllithium | C(CCC)[Li]
reactant | isoamyl nitrate | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-5-(nitromethylthio)thiophene | 9% yield | CC=1SC(=CC1)SC[N+](=O)[O-] | C6H7NO2S2
